US04940483
To 25 ml of a solution of 1.5 g of 3-benzoyl-6-chloropyridine and 3.2 g of 1,2-propanediol in toluene, 1.2 g of boron trifluoride etherate was added. The resulting mixture was heated under reflux for six hours while removing the water thus formed therefrom. Then the reaction mixture was cooled, poured into an aqueous solution of sodium hydroxide and extracted with ether. The organic phase was washed with water and dried over anhydrous sodium sulfate. After filtering off the sodium sulfate and distilling off the solvent in vacuo, 2-(6-chloropyridin-3-yl)-4-methyl-2-phenyl-1,3-dioxolane was obtained, m.p.: 44°-51° C.

reactant | 3-benzoyl-6-chloropyridine | 1.5 g | C(C1=CC=CC=C1)(=O)C=1C=NC(=CC1)Cl | C12H8ClNO
reactant | 1,2-propanediol | 3.2 g | C(C(C)O)O | C3H8O2
reactant | boron trifluoride etherate | 1.2 g | B(F)(F)F.CCOCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(6-chloropyridin-3-yl)-4-methyl-2-phenyl-1,3-dioxolane | ClC1=CC=C(C=N1)C1(OCC(O1)C)C1=CC=CC=C1 | C15H14ClNO2
